US08013005B2
4-{2-Butyl-5-[((S)-2-mercapto-4-methylpentanoylamino)methyl]imidazol-1-ylmethyl}-2,3-difluorobenzoic Acid
(S)-2-Acetylsulfanyl-4-methylpentanoic acid (205 mg, 1.1 mmol) was dissolved in DMF (8.1 mL, 104 mmol). HATU (409 mg, 1.1 mmol) and DIPEA (170 μL, 1.0 mmol) were added and the mixture was stirred at room temperature for 30 minutes. 4-(5-Aminomethyl-2-butyl-imidazol-1-ylmethyl)-2,3-difluorobenzoic acid methyl ester dihydrochloride salt (401 mg, 1.0 mmol) was dissolved in DMF (1 ml) with DIPEA (170 μL, 1.0 mmol) and added to the mixture. The mixture was stirred at room temperature for 2 hours. The reaction was then quenched with water, and the mixture extracted with EtOAc, washed with saturated aqueous NaCl, dried over MgSO4, filtered and concentrated. The crude residue was then redissolved in 1:1 MeOH:NaOH (4 mL) and stirred at room temperature under nitrogen for 1 hour. The reaction was quenched with acetic acid and the mixture was concentrated. The product was purified by preparative HPLC (2-90%) to yield 108 mg of the title compound as a white solid. MS m/z: [M+H+] calcd for C22H29F2N3O3S, 454.19. found 454.2. 1H-NMR (DMSO): 8.44 (1H, t), 7.59 (1H, t), 7.25 (1H, s), 6.62 (1H, t), 5.56 (2H, s), 4.24 (2H, m), 3.14 (2H, q), 2.79 (2H, t), 2.72 (1H, d), 1.2-1.6 (7H, m), 0.78 (6H, d), 0.71 (3H, d).

reactant | (S)-2-Acetylsulfanyl-4-methylpentanoic acid | 1.1 mmol, 205 mg | C(C)(=O)S[C@H](C(=O)O)CC(C)C | C8H14O3S
reactant | HATU | 1.1 mmol, 409 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.0 mmol, 170 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(5-Aminomethyl-2-butyl-imidazol-1-ylmethyl)-2,3-difluorobenzoic acid methyl ester dihydrochloride salt | 1.0 mmol, 401 mg | Cl.Cl.COC(C1=C(C(=C(C=C1)CN1C(=NC=C1CN)CCCC)F)F)=O
reactant | DIPEA | 1.0 mmol, 170 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 104 mmol, 8.1 mL | CN(C)C=O | C3H7NO
product | 4-{2-Butyl-5-[((S)-2-mercapto-4-methylpentanoylamino)methyl]imidazol-1-ylmethyl}-2,3-difluorobenzoic Acid | 108 mg | C(CCC)C=1N(C(=CN1)CNC([C@H](CC(C)C)S)=O)CC1=C(C(=C(C(=O)O)C=C1)F)F | C22H29F2N3O3S
